US04738970
0.46 Gram of 2-chlorobenzimidazole, 0.2 g of thiourea and 10 ml of ethanol were mixed together and the mixture was refluxed for 2 hours. To this reaction mixture was added 0.62 g of 4-allyloxy-8-bromo-3-methyl-5,6,7,8-tetrahydroquinoline and 0.3 g of sodium hydroxide, then the whole reaction mixture was refluxed for 5 hours. After the reaction was completed, ethanol was removed by evaporation, and to the residue thus obtained was added water and then extracted with chloroform, and the chloroform extract was dried with anhydrous magnesium sulfate, and the chloroform was removed by evaporation. The residue thus obtained was purified by means of a silica gel column chromatography (eluent: methylene chloride/methanol=100/1) to obtain 0.5 g of 4-allyloxy-8-(2-benzimidazolyl)thio-3-methyl-5,6,7,8-tetrahydroquinoline in the form of light brown oily substance.

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | thiourea | 0.2 g | NC(=S)N | CH4N2S
reactant | 4-allyloxy-8-bromo-3-methyl-5,6,7,8-tetrahydroquinoline | 0.62 g | C(C=C)OC1=C(C=NC=2C(CCCC12)Br)C | C13H16BrNO
reactant | sodium hydroxide | 0.3 g | [OH-].[Na+]
solvent | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-allyloxy-8-(2-benzimidazolyl)thio-3-methyl-5,6,7,8-tetrahydroquinoline | 0.5 g | C(C=C)OC1=C(C=NC=2C(CCCC12)SC=1NC2=C(N1)C=CC=C2)C | C20H21N3OS
